US06251936B1
2-Bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-6-nitro-phenol
A solution of bromine (0.040 mL, 0.756 mmol) in acetic acid (0.5 mL) was added dropwise to a stirred suspension of 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-nitro-phenol (0.20 g, 0.467 mmol), potassium acetate (0.228 g, 2.335 mmol) in acetic acid (4 mL). After 10 min, water was added and the reaction mixture was extracted with ether. Silica gel was added to the ether phase and the solvent was removed. The adsorbate was flashed (gradient: 95:5 to 85:15) to provide the title compound as a yellow solid (0.141 g, 60%): mp 129-130° C.: NMR (DMSO-d6); δ11.30 (s, 1H), 8.22 (d, J=8 Hz, 1H), 8.03 (s, 1H), 7.96 (s, 1H), 7.67 (quintuplet, J=4 Hz, 1H), 7.51 (d, J=4 Hz, 2H), 2.45 (s, 3H), 1.65 (s, 3H); MS (EI): 2 bromine isotope pattern 505 (40%), 507 (100%), 509 (50%); Anal. Calc. for C20H13Br2NO3S: C, 47.36; H, 2.58; N, 2.76. Found: C, 47.18; H, 2.55; N, 2.63.

reactant | bromine | 0.756 mmol, 0.040 mL | BrBr | Br2
reactant | 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-nitro-phenol | 0.467 mmol, 0.20 g | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(C=C2)O)[N+](=O)[O-] | C20H14BrNO3S
reactant | potassium acetate | 2.335 mmol, 0.228 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 2-Bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-6-nitro-phenol | 0.141 g, 60% | BrC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)[N+](=O)[O-])O | C20H13Br2NO3S
